US08119666B2
To a suspension of NaH (60%, 9.38 g, 235 mmol) in DMF (200 mL) at 0° C. under N2 is added tert-butyl ethyl malonate (45.7 mL, 243 mmol) over 30 min. The reaction is stirred for 1.5 h in an ice bath. 2-Benzyloxy-4-fluoro-1-nitrobenzene (20.0 g, 80.9 mmol) is added and the reaction heated to 50° C. for 7.5 h. The reaction is quenched with H2O (600 mL) and extracted with EtOAc (2 L). The organic phase is concentrated to ˜1 L, washed with H2O (2×500 mL) and brine (300 mL), and dried over Na2SO4. Evaporation yields a yellow oil. The oil is azeotroped with DCM and the resulting solid is triturated with a hexanes/Et2O solution, affording a yellow solid. Two additional crops of the solid are obtained from the filtrate upon standing. The solids are combined to afford 2-(3-benzyloxy-4-nitrophenyl) -malonic acid tert-butyl ester ethyl ester: MS (M−H)−=414.

reactant | NaH | 235 mmol, 9.38 g | [H-].[Na+]
reactant | tert-butyl ethyl malonate | 243 mmol, 45.7 mL | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | 2-Benzyloxy-4-fluoro-1-nitrobenzene | 80.9 mmol, 20.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C13H10FNO3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-(3-benzyloxy-4-nitrophenyl) -malonic acid tert-butyl ester ethyl ester | C(C)OC(C(C(=O)OC(C)(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C22H25NO7
